US09376454B2
To methyl 4-(bromomethyl)-3-nitrobenzoate (100 mg) in THF (5 mL) was added dimethyl amine (2 mL, 2 M in THF) and the resulting reaction mixture was stirred at room temperature overnight. The solvent was then removed to afford methyl 4-((dimethylamino)methyl)-3-nitrobenzoate which was carried on to the next step without further purification.

reactant | methyl 4-(bromomethyl)-3-nitrobenzoate | 100 mg | BrCC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H8BrNO4
reactant | dimethyl amine | 2 M, 2 mL | CNC | C2H7N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | methyl 4-((dimethylamino)methyl)-3-nitrobenzoate | CN(C)CC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C11H14N2O4
